US09193689B2
To a stirred solution of 5-methyl-3-(4-piperazin-1-ylmethyl-phenyl)-2H-isoquinolin-1-one (40 mg, 0.12 mmol) in CH2Cl2 (0.5 mL) was added tert-butyl isocyanate (0.014 mL, 0.12 mmol) and the reaction mixture stirred at RT for 1 h after which time the solvent was removed in vacuo and the crude residue purified by reverse phase preparative HPLC-MS to afford 4-[4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzyl]-piperazine-1-carboxylic acid tert-butylamide as a white solid (28 mg, 54%).

reactant | 5-methyl-3-(4-piperazin-1-ylmethyl-phenyl)-2H-isoquinolin-1-one | 0.12 mmol, 40 mg | CC1=C2C=C(NC(C2=CC=C1)=O)C1=CC=C(C=C1)CN1CCNCC1 | C21H23N3O
reactant | tert-butyl isocyanate | 0.12 mmol, 0.014 mL | C(C)(C)(C)N=C=O | C5H9NO
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 4-[4-(5-methyl-1-oxo-1,2-dihydro-isoquinolin-3-yl)-benzyl]-piperazine-1-carboxylic acid tert-butylamide | 28 mg, 54% | C(C)(C)(C)NC(=O)N1CCN(CC1)CC1=CC=C(C=C1)C=1NC(C2=CC=CC(=C2C1)C)=O | C26H32N4O2
